datasets/10k__Tet_Int.csv
SMILES Labelled
"CCCCCCC1C(O[C:20](=[O:10])N1C1=CC=CC=C1)CCCCCC.[O-:21]C>>CCCCCCC1C(O[C:20](N1C1=CC=CC=C1)([O-:10])[O:21]C)CCCCCC 21=20;20,10=10"
"C1(C(O[C:20]([O-:10])([O:21]C1C)OC)CCCCCC)C>>C(C([O-:21])C)(C(O[C:20](=[O:10])OC)CCCCCC)C 10=20;20,21=21"
"C[NH+:21]=[C:20]2[O]C([H])C(C)[NH]2.C9=CC=CC=C9[NH:10][H].[Cl-]>>[Cl-].C9=CC=CC=C9[NH+:10]([H])[C:20]1([NH:21]C)[O]C([H])C(C)[NH]1 10=20;20,21=21"
"C[O+:10]([H])[C:20]1([NH:21][H])[NH]C(C)C(C8=CC=CC=C8)[NH]1.[Cl-]>>[Cl-].[H][NH+:21]=[C:20]2[NH]C(C)C(C8=CC=CC=C8)[NH]2.C[O:10][H] 21=20;20,10=10"
"C1(C(O[C:20]([O-:10])([O:21]C1CCCCCC)O[H])C1=CC=CC=C1)CCCCCC>>C(C([O-:21])CCCCCC)(C(O[C:20](=[O:10])O[H])C1=CC=CC=C1)CCCCCC 10=20;20,21=21"
"[O-:21][C:20]1(OCC)C(O)C([H])C([H])C(CCC)[O+:10]1([Na])>>[O:10]([Na])C(CCC)C([H])C([H])C(O)[C:20](OCC)=[O:21] 21=20;20,10=10"
"[H]N([C:20]1(OC(C(C([O:21]1)CCCCCC)C)CC)[O-:10])CCCCCC>>[H]N([C:20](=[O:10])OC(C(C([O-:21])CCCCCC)C)CC)CCCCCC 10=20;20,21=21"
"[O-:10]C([H])C(C)N([C:20](OC)=[O:21])C>>[O-:21][C:20]1(OC)[O:10]C([H])C(C)N1C 10=20;20,21=21"
"[H][O:10]C(C9=CC=CC=C9)C(C)C([H])[O][C:20]([NH]C)=[NH+:21][H].[Cl-]>>[Cl-].[H][O+:10](C(C9=CC=CC=C9)C(C)C([H])[O]1)[C:20]1([NH:21][H])[NH]C 10=20;20,21=21"
"[H]N([C:20]1(OC(C(C([O:21]1)C1=CC=CC=C1)[H])C1=CC=CC=C1)[O-:10])CCCCCC>>[H]N([C:20](=[O:10])OC(C(C([O-:21])C1=CC=CC=C1)[H])C1=CC=CC=C1)CCCCCC 10=20;20,21=21"
"CC[O+:10]([H])[C:20]1([NH:21]C)[NH][CH](CC)C(C)[CH](CC)[O]1.[Cl-]>>[Cl-].C[NH+:21]=[C:20]2[NH][CH](CC)[CH](C)C(CC)[O]2.CC[O:10][H] 21=20;20,10=10"
"[H][O+:10](C(C)C([H])C([H])[O]1)[C:20]1([NH:21]C)[O]C.[Cl-]>>[Cl-].[H][O:10]C(C)C([H])C([H])[O][C:20]([O]C)=[NH+:21]C 21=20;20,10=10"
"C9=CC=CC=C9[S:10][H].C[O+:21]=[C:20]([S]CC)[O][H].[Cl-]>>[Cl-].C9=CC=CC=C9[S+:10]([H])[C:20]([O:21]C)([S]CC)[O][H] 10=20;20,21=21"
"[H]C1C(C(O[C:20](N1C1=CC=CC=C1)([O-:10])[O:21]C1=CC=CC=C1)C1=CC=CC=C1)[H]>>[H]C1C(C(O[C:20](=[O:10])N1C1=CC=CC=C1)C1=CC=CC=C1)[H].[O-:21]C1=CC=CC=C1 10=20;20,21=21"
"CC[NH+:21]=[C:20]2[NH][CH](C)[CH](C)C([H])[NH]2.CC[NH:10][H].[Cl-]>>[Cl-].CC[NH+:10]([H])[C:20]1([NH:21]CC)[NH][CH](C)C(C)[CH]([H])[NH]1 10=20;20,21=21"
"CCCCCCN([C:20]1(OC(C(C([O:21]1)C)CCCCCC)[H])[O-:10])[H]>>CCCCCCN([C:20](=[O:10])OC(C(C([O-:21])C)CCCCCC)[H])[H] 10=20;20,21=21"
"[NH:10]([H])C(C)C([H])C(C)C(C)[C:20](OCC)=[O:21]>>[O-:21][C:20]1(OCC)C(C)C(C)C([H])C(C)[NH+:10]1([H]) 10=20;20,21=21"
"C1(C(O[C:20]([O-:10])([O:21]C1C)OCCCCCC)[H])C>>C(C([O-:21])C)(C(O[C:20](=[O:10])OCCCCCC)[H])C 10=20;20,21=21"
"CN([C:20]1(OC(C(C([O:21]1)CC)C)CC)[O-:10])C1=CC=CC=C1>>CN([C:20](=[O:10])OC(C(C([O-:21])CC)C)CC)C1=CC=CC=C1 10=20;20,21=21"
"C9=CC=CC=C9[NH+:10]([H])[C:20]1([NH:21]C6=CC=CC=C6)[NH]C(C7=CC=CC=C7)C([H])[O]1.[Cl-]>>[Cl-].C6=CC=CC=C6[NH+:21]=[C:20]2[NH]C(C7=CC=CC=C7)C([H])[O]2.C9=CC=CC=C9[NH:10][H] 21=20;20,10=10"
"[CH2:20]([NH:10]CC)[Br:21]>>[CH2:20]=[NH+:10]CC.[Br-:21] 10=20;20,21=21"
"[O-:21][C:20]1(C)[O:10]C([H])C(C)=C1O>>[O-:10]C([H])/C(C)=C([C:20](C)=[O:21])/O 21=20;20,10=10"
"[H][O+:10]([H])[C:20]1([NH:21]C6=CC=CC=C6)[O]C([H])C(C)[O]1.[Cl-]>>[Cl-].C6=CC=CC=C6[NH+:21]=[C:20]2[O]C([H])C(C)[O]2.[H][O:10][H] 21=20;20,10=10"
"[H][NH+:10](C(C9=CC=CC=C9)C([H])C(C)[O]1)[C:20]1([NH:21]CC)[NH]C.[Cl-]>>[Cl-].[H][NH:10]C(C9=CC=CC=C9)C([H])C(C)[O][C:20]([NH]C)=[NH+:21]CC 21=20;20,10=10"
"CCC1C(C(O[C:20](=[O:10])N1CCCCCC)C)CCCCCC.[O-:21]C1=CC=CC=C1>>CCC1C(C(O[C:20](N1CCCCCC)([O-:10])[O:21]C1=CC=CC=C1)C)CCCCCC 21=20;20,10=10"
"CCCCCCN([C:20](=[O:10])OC(C(C([O-:21])[H])[H])CC)C1=CC=CC=C1>>CCCCCCN([C:20]1(OC(C(C([O:21]1)[H])[H])CC)[O-:10])C1=CC=CC=C1 21=20;20,10=10"
"[H][O+:10]([H])[C:20]1([NH:21][H])[O][CH](C)C([H])[CH](CC)[NH]1.[Cl-]>>[Cl-].[H][NH+:21]=[C:20]2[O][CH](C)[CH]([H])C(CC)[NH]2.[H][O:10][H] 21=20;20,10=10"
"C1=CC=CC=C1C1C(C(O[C:20](=[O:10])N1CCCCCC)CCCCCC)CC.[O-:21]CCCCCC>>C1=CC=CC=C1C1C(C(O[C:20](N1CCCCCC)([O-:10])[O:21]CCCCCC)CCCCCC)CC 21=20;20,10=10"
"[H][O+:10]([H])[C:20]1([NH:21]C)[NH]C([H])C(C)[O]1.[Cl-]>>[Cl-].C[NH+:21]=[C:20]2[NH]C([H])C(C)[O]2.[H][O:10][H] 21=20;20,10=10"
"CC[NH+:21]=[C:20]2[O][CH](C)[CH](C)C(CC)[O]2.C9=CC=CC=C9[O:10][H].[Cl-]>>[Cl-].C9=CC=CC=C9[O+:10]([H])[C:20]1([NH:21]CC)[O][CH](C)C(C)[CH](CC)[O]1 10=20;20,21=21"
"[H][O:10]C(CC)C(C)[S][C:20]([O]C7=CC=CC=C7)=[O+:21][Si](C)(C)(C).[Cl-]>>[Cl-].[H][O+:10](C(CC)C(C)[S]1)[C:20]1([O:21][Si](C)(C)(C))[O]C7=CC=CC=C7 10=20;20,21=21"
"[NH:10](C)C(C)/C(C)=C([C:20](OC)=[O:21])/C>>[O-:21][C:20]1(OC)[NH+:10](C)C(C)C(C)=C1C 10=20;20,21=21"
"[O-:21][C:20]1(OCC)C([H])C([H])C(C)C(C)[O+:10]1([K])>>[O:10]([K])C(C)C(C)C([H])C([H])[C:20](OCC)=[O:21] 21=20;20,10=10"
"[O-:21][C:20]1(C)C([H])C(C)=C(C)C(CC)[O+:10]1([K])>>[O:10]([K])C(CC)/C(C)=C(C)\C([H])[C:20](C)=[O:21] 21=20;20,10=10"
"[H]N([C:20](=[O:10])OC(C(C([O-:21])C1=CC=CC=C1)CC)CC)CC>>[H]N([C:20]1(OC(C(C([O:21]1)C1=CC=CC=C1)CC)CC)[O-:10])CC 21=20;20,10=10"
"[H][O+:10](C(C9=CC=CC=C9)C(C)[O]1)[C:20]1([NH:21]C6=CC=CC=C6)[NH][H].[Cl-]>>[Cl-].[H][O:10]C(C9=CC=CC=C9)C(C)[O][C:20]([NH][H])=[NH+:21]C6=CC=CC=C6 21=20;20,10=10"
